US05679694
k) Tert-butyl 3,4-dimethylpyrrolo[3,2-b]carbazole-2-carboxylate
The pyrrolo[3,2-b]carbazole-2-carboxylic acid (0.86 mmol) and triphenylphosphine (0.91 mmol, 1.05 eq.) were dissolved in freshly distilled tetrahydrofuran under a nitrogen atmosphere. Tertiary butanol (2.12 mmol, 2.5 eq.) was added by syringe, and finally diethyl azodicarboxylate (0.95 mmol, 1.1 eq.) was added dropwise over 10 minutes. The resulting suspension was stirred at room temperature for two hours, by which time TLC showed complete consumption of the starting acid. The title compound was obtained from the crude reaction mixture in several stages: column chromatography on silica, eluting with 20% ether/80% petrol then 50% ether/50% petrol; column chromatography on silica (eluting with 25% ether/75% petrol then 40% ether/60% petrol); and finally, recrystallisation from DCM gave yellow powder (0.030 g, 10%0 m.p. 187°-189° C. (decomp.) (Found: C, 73.24; H, 6.53; N, 7.93. C21H22N2O2.0.15CH2Cl2 requires C, 73.18; H, 6.47; N, 8.07%); δH ([2H6 ]-DMSO) 10.95 (1H, s, 1-NH), 10.57 (1H, s, 5-NH), 8.05 (1H, d, J 8, 9-H), 7.88 (1H, s, 10-H), 7.29-7.43 (2H, m, 6-H, 7-H), 7.05 (1H, ddd, J 8, 6, 1, 8-H), 2.89 and 2.87 (2×3H, 2×s, 3-CH3 and 4-CH3) and 1.59 (9H, s, C(CH3)3); m/z (%) 355(62, M+1+), 278(90), 233(38), 126(32), 91(78) and 57(100); νmax (KBr Disc)/cm-1 3337, 1664 and 1240.

reactant | pyrrolo[3,2-b]carbazole-2-carboxylic acid | 0.86 mmol | N1=C(C=C2C=C3N=C4C=CC=CC4=C3C=C21)C(=O)O | C15H8N2O2
reactant | triphenylphosphine | 0.91 mmol, 1.05 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Tertiary butanol | 2.12 mmol, 2.5 eq. | C(C)(C)(C)O | C4H10O
reactant | diethyl azodicarboxylate | 0.95 mmol, 1.1 eq. | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Tert-butyl 3,4-dimethylpyrrolo[3,2-b]carbazole-2-carboxylate | CC=1C(=NC=2C1C(=C1N=C3C=CC=CC3=C1C2)C)C(=O)OC(C)(C)C | C21H20N2O2
